US07700629B2
Obtainment of Enriched Levobupivacaine
45 g of levobupivacaine tartrate were dissolved in 222 mL of water under stirring. Concentrated ammonium hydroxide was added under stirring until the pH adjusted at 9-10. The solids were filtered and washed with 222 mL of water. The solids were dried in an oven with temperature around 45° C. until constant weight. Yield 27.6 g of enriched levobupivacaine free base (70%≦ee≦80%), MP=125-132° C.

reactant | levobupivacaine tartrate | 45 g | CCCCN1CCCC[C@H]1C(=O)NC=2C(=CC=CC2C)C.C(=O)([O-])C(O)C(O)C(=O)[O-]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 222 mL | O | H2O
product | Levobupivacaine | CCCCN1CCCC[C@H]1C(=O)NC=2C(=CC=CC2C)C | C18H28N2O
